US05525606
A suspension of 8-methylguanine (Daves et al., J. Am. Chem. Soc., 82, 2633-2640 (1960)) (1.0 g, 6.1 mmol) in phosphorous oxychloride (30 mL) and N,N-diethylaniline (1 mL) was refluxed for 3 h. The excess phosphorous oxychloride was evaporated under reduced pressure. The resulting brown oil was dissolved in ice-water and was neutralized with a concentrated aqueous NaOH solution. After evaporation of the solvent, the solid residue was suspended in 70 mL of H2O. Undissolved solid was filtered off, and the filtrate was loaded on a 3×80 cm Sephadex LH-20 column eluted with methanol/water (1:1) at 1 mL/min. Column eluent was continuously monitored at 280 nm and fractions (10 mL) were collected. Evaporation of pooled fractions 50-60 produced 2-amino-6-chloro-8-methylpurine as a crude solid. Crystallization from ethanol/water with charcoal treatment afforded 2-amino-6-chloro-8-methylpurine as a white solid: yield, 0.57 g (51%); mp >265° C. dec.; 1H NMR δ2.39 (s, 3H, CH3), 6.62 (s, 2H, NH2, exchange with D2O), 12.56 (s, 1H, NH, exchanges with D2O); MS (EI) calcd. m/z for C6H6N535Cl 183.0312, found 183.0309; calcd. m/z for C6H6N537Cl 185.0283, found 185.0286.

reactant | 8-methylguanine | 6.1 mmol, 1.0 g | CC1=NC=2N=C(NC(C2N1)=O)N | C6H7N5O
reactant | phosphorous oxychloride | 30 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | N,N-diethylaniline | 1 mL | C(C)N(C1=CC=CC=C1)CC | C10H15N
product | 2-amino-6-chloro-8-methylpurine | NC1=NC(=C2NC(=NC2=N1)C)Cl | C6H6ClN5
